US05723450
4-(4-Hydroxy-4-tert-butylbenzylcyclohexylamino)-3-methoxy-2-methylpyridine
A Grignard solution is prepared from 1.2 g of magnesium and 12.9 g of 90% strength 4-tert-butylbenzyl bromide in 100 ml of abs. ether. 2.9 g of 4-(4-oxocyclohexylamino)-3-methoxy-2-methylpyridine in 50 ml of absolute THF are added dropwise to this solution. After 17 hours at room temperature it is acidified with 25 ml of 2N HCl, the mixture is extracted several times with ethyl acetate and the combined ethyl acetate phases are washed with sodium hydrogen carbonate solution. Purification is carried out by column chromatography on silica gel using ethyl acetate to which increasing amounts of methanol are added.

reactant | magnesium | 1.2 g | [Mg] | Mg
reactant | 4-tert-butylbenzyl bromide | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | 4-(4-oxocyclohexylamino)-3-methoxy-2-methylpyridine | 2.9 g | O=C1CCC(CC1)NC1=C(C(=NC=C1)C)OC | C13H18N2O2
reactant | HCl | 2N, 25 ml | Cl | ClH
reactant | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-(4-Hydroxy-4-tert-butylbenzylcyclohexylamino)-3-methoxy-2-methylpyridine | OC1(CC=C(CN(C2=C(C(=NC=C2)C)OC)C2CCCCC2)C=C1)C(C)(C)C | C24H36N2O2
